US04661512
(1) benzyl (L)-pyroglutamate
A suspension of 103.2 g (0.8 mol) of (L)-pyroglutamic acid in 2.8 liters of toluene, 86.6 g (0.8 mol) of benzyl alcohol and 4.3 ml of sulfuric acid is heated under reflux for 7 to 8 hours in a 4 liter apparatus equipped with a good stirrer and a Dean-Stark attachment. TLC (A) is used to check that the benzyl alcohol has disappeared and the mixture is cooled and washed with 2×400 ml of water, 2×400 ml of a 2% solution of Na2CO3 and then 2×400 ml water. The toluene layer is dried over sodium sulfate and evaporated in vacuo and the residue is dried in vacuo in the presence of P2O5. This gives 70 to 75% of a pure product of Rf=0.5 (A) and melting point=48°-49° C. The product can also be distilled; boiling point=170°-5° C. (0.1 mm Hg).

reactant | (L)-pyroglutamic acid | 0.8 mol, 103.2 g | N1[C@@H](CCC1=O)C(=O)O | C5H7NO3
reactant | benzyl alcohol | 0.8 mol, 86.6 g | C(C1=CC=CC=C1)O | C7H8O
reactant | sulfuric acid | 4.3 ml | S(O)(O)(=O)=O | H2O4S
solvent | toluene | 2.8 liters | C1(=CC=CC=C1)C | C7H8
product | benzyl (L)-pyroglutamate | N1[C@@H](CCC1=O)C(=O)OCC1=CC=CC=C1 | C12H13NO3
